US08859574B2
A mixture of 5-chloro-N2-(2,5-dimethyl-4-(piperidin-4-yl)phenyl)-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine (14 mg, 0.033 mmol), 5-(2-chloroethyl)-3-isopropyl-1,2,4-oxadiazole (9 mg, 0.053 mmol) and DIEA (29 uL, 0.17 mmol) in NMP (1 mL) was stirred at 50° C. for 3 days. The crude reaction mixture was purified by RP-HPLC to give 5-Chloro-N2-(4-(1-(2-(3-isopropyl-1,2,4-oxadiazol-5-yl)ethyl)piperidin-4-yl)-2,5-dimethylphenyl)-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine as a white solid; ESMS m/z 550.3 (M+H+).

reactant | 5-chloro-N2-(2,5-dimethyl-4-(piperidin-4-yl)phenyl)-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine | 0.033 mmol, 14 mg | ClC=1C(=NC(=NC1)NC1=C(C=C(C(=C1)C)C1CCNCC1)C)NC1=NNC(=C1)C | C21H26ClN7
reactant | 5-(2-chloroethyl)-3-isopropyl-1,2,4-oxadiazole | 0.053 mmol, 9 mg | ClCCC1=NC(=NO1)C(C)C | C7H11ClN2O
reactant | DIEA | 0.17 mmol, 29 uL | CCN(C(C)C)C(C)C | C8H19N
solvent | NMP | 1 mL | CN1CCCC1=O | C5H9NO
product | 5-Chloro-N2-(4-(1-(2-(3-isopropyl-1,2,4-oxadiazol-5-yl)ethyl)piperidin-4-yl)-2,5-dimethylphenyl)-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine | ClC=1C(=NC(=NC1)NC1=C(C=C(C(=C1)C)C1CCN(CC1)CCC1=NC(=NO1)C(C)C)C)NC1=NNC(=C1)C | C28H36ClN9O
